# cccs test forward reference
i1 1 0 dc 11 ac 11
ri1 1 0 10
e1 2 0 1 0 8
re1 2 0 10
* sense the voltage source (0 volts)
f2 5 0 v2 8
rf2 5 0 10
i2 3 0 dc 11 ac 11
ri2 4 0 10
v2 3 4 11
* sense a live voltage source
f7 7 0 v7 8
rf7 7 0 10
v7 6 0 dc 11 ac 11
rv7 6 0 10
.width out=132
.print op v(1) v(2) v(3) v(4) v(5) v(6) v(7) f(f2) f(f7)
.op
.print tran v(1) v(2) v(3) v(4) v(5) v(6) v(7) f(f2) f(f7)
.tran .05 .1 0
.print ac v(1) v(2) v(3) v(4) v(5) v(6) v(7) f(f2) f(f7)
.ac oct 1 1k 2k

.delete v2
v2 3 4 0
.print op v(1) v(2) v(3) v(4) v(5) v(6) v(7) f(f2) f(f7)
.op
.print tran v(1) v(2) v(3) v(4) v(5) v(6) v(7) f(f2) f(f7)
.tran
.print ac v(1) v(2) v(3) v(4) v(5) v(6) v(7) f(f2) f(f7)
.ac

.end
